US06600038B1
5-carbamoyl-1,2,3,6-tetrahydropyridine hydrochloride was dissolved in a saturated aqueous solution of sodium hydrogen carbonate, followed by extraction with chloroform. The organic layer was dried over anhydrous sodium sulfate. After the desiccant was filtered off, the filtrate was concentrated under reduced pressure to yield crystals of free 5-carbamoyl-1,2,3,6-tetrahydropyridine.

reactant | 5-carbamoyl-1,2,3,6-tetrahydropyridine hydrochloride | Cl.C(N)(=O)C1=CCCNC1
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 5-carbamoyl-1,2,3,6-tetrahydropyridine | C(N)(=O)C1=CCCNC1 | C6H10N2O
